US05162325
Step D: 3-Cyano-4-(4-bromomethylphenyl)pyridine
A solution of 3-cyano-4-(4-tolyl)pyridine (485 mg, 2.66 mmol), N-bromosuccinimide (929 mg, 5.22 mmol), and dibenzoylperoxide (64 mg, 0.266 mmol) in CCl4 (15 mL) was heated to reflux for 6 h. The mixture was cooled and water (50 mL) and CH2Cl2 (30 mL) were added. The organic layer was dried (MgSO4) and purified by flash chromatography (10% EtOAc/hexanes). The product is not kept in concentrated form for more than 5 minutes and stored only in CH2Cl2 at 0° C. to minimize polymerization.

reactant | 3-cyano-4-(4-tolyl)pyridine | 2.66 mmol, 485 mg | C(#N)C=1C=NC=CC1C1=CC=C(C=C1)C | C13H10N2
reactant | N-bromosuccinimide | 5.22 mmol, 929 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 0.266 mmol, 64 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | water | 50 mL | O | H2O
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-Cyano-4-(4-bromomethylphenyl)pyridine | C(#N)C=1C=NC=CC1C1=CC=C(C=C1)CBr | C13H9BrN2
